US05245046
Methyl α-[3-(trifluoromethyl)benzylamino]-1-benzylindole-3-acetate hydrochloride
A magnetically stirred solution of methyl α-[3-(trifluoromethyl)benzylamino]-1-benzylindole-3-acetate (4.07 g, 9.0 mmol) in 65 mL of ether cooled at 0°-5° C. was treated dropwise over a four-minute period with a stock solution of hydrogen chloride in ether (3.8 mL, 11.71 mmol, 1.3 eq, 3.1 mmol per mL). The cooling bath was removed after addition was completed and the mixture stirred at room temperature overnight. The precipitated white solid was collected, washed with ether-hexane (1:1) and recrystallized from acetone-ethyl acetate-ether solvent mixture to yield 4.18 g (95%) of the title compound.

reactant | methyl α-[3-(trifluoromethyl)benzylamino]-1-benzylindole-3-acetate | 9.0 mmol, 4.07 g | FC(C=1C=C(CNC(C(=O)OC)C2=CN(C3=CC=CC=C23)CC2=CC=CC=C2)C=CC1)(F)F | C26H23F3N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | ether | 65 mL | CCOCC | C4H10O
solvent | ether | 11.71 mmol, 3.1 mmol per mL, 3.8 mL, 1.3 eq | CCOCC | C4H10O
product | Methyl α-[3-(trifluoromethyl)benzylamino]-1-benzylindole-3-acetate hydrochloride | 4.18 g, 95% | Cl.FC(C=1C=C(CNC(C(=O)OC)C2=CN(C3=CC=CC=C23)CC2=CC=CC=C2)C=CC1)(F)F | InChI=1S/C26H23F3N2O2.ClH/c1-33-25(32)24(30-15-19-10-7-11-20(14-19)26(27,28)29)22-17-31(16-18-8-3-2-4-9-18)23-13-6-5-12-21(22)23;/h2-14,17,24,30H,15-16H2,1H3;1H
